US06887896B1
6-Fluoro-7-(7-methoxy-2,2,4-trimethyl-2H-chromen-6-yl)-3-methyl-nona-2E,4E,6E-trienoic acid (Compound 129)
Following General Procedure G, a solution of ethyl 6-fluoro-7-(7-methoxy-2,2,4-trimethyl-2H-chromen-6-yl)-3-methyl-nona-2E,4E,6E-trienoate (Compound 116,204 mg, 0.51 mmol) in ethanol and THF was hydrolyzed with 1M NaOH. Purification by flash chromatography (silica gel, 75:25 hexane/ethyl acetate) afforded the title compound as a light yellow solid.

reactant | ethyl 6-fluoro-7-(7-methoxy-2,2,4-trimethyl-2H-chromen-6-yl)-3-methyl-nona-2E,4E,6E-trienoate | 0.51 mmol, 116,204 mg | F/C(/C=C/C(=C/C(=O)OCC)/C)=C(\CC)/C=1C=C2C(=CC(OC2=CC1OC)(C)C)C | C25H31FO4
reactant | NaOH | 1M | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
solvent | THF | C1CCOC1 | C4H8O
product | 6-Fluoro-7-(7-methoxy-2,2,4-trimethyl-2H-chromen-6-yl)-3-methyl-nona-2E,4E,6E-trienoic acid | F/C(/C=C/C(=C/C(=O)O)/C)=C(\CC)/C=1C=C2C(=CC(OC2=CC1OC)(C)C)C | C23H27FO4
